US07115611B2
A] 2-(4-Acetyl-3-fluoro-phenoxy)-2-methyl-propionic acid ethyl ester
A suspension of 12.0 g (77.9 mmol) of 2-fluoro-4-hydroxyacetophenone, 27.9 g (85.6 mmol) of cesium carbonate and 11.6 ml (77.9 mmol) of ethyl 2-bromo-2-methylpropionate in 200 ml of DMF was heated at 50° C. for 3 days. Twice a day additional 12.7 g (38.9 mmol) of cesium carbonate and 5.8 ml (38.9 mmol) of ethyl 2-bromo-2-methylpropionate were added (total of 2.5 equivalent). The mixture was neutralized with aqueous 10% KHSO4 and extracted with ether (3×). The organic phases were washed with aqueous 10% KHSO4, aqueous 10% NaCl and dried over sodium sulfate. The crude product was purified by flash chromatography over silica gel with heptane/AcOEt 9:1 to 6:1, to give 16.7 g of the title compound as colorless oil.

reactant | 2-fluoro-4-hydroxyacetophenone | 77.9 mmol, 12.0 g | CC(=O)C1=C(C=C(C=C1)O)F | C8H7FO2
reactant | cesium carbonate | 85.6 mmol, 27.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl 2-bromo-2-methylpropionate | 77.9 mmol, 11.6 ml | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | cesium carbonate | 38.9 mmol, 12.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl 2-bromo-2-methylpropionate | 38.9 mmol, 5.8 ml | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2-(4-Acetyl-3-fluoro-phenoxy)-2-methyl-propionic acid ethyl ester | 16.7 g | C(C)OC(C(C)(C)OC1=CC(=C(C=C1)C(C)=O)F)=O | C14H17FO4
